US06087380
b) 1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylicacid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 71% of theory, C27H29N7O3 (499.6) Rf value: 0.28 (silica gel; dichloromethane/methanol=5:1) ##EQU36##

reactant | 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)CCC(=O)OCC | C27H26N6O3
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | dichloromethane methanol | ClCCl.CO
product | 1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylicacid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 71% | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC | InChI=1S/C27H29N7O3.ClH/c1-3-37-25(35)13-15-34(23-6-4-5-14-30-23)27(36)19-9-12-22-21(16-19)32-24(33(22)2)17-31-20-10-7-18(8-11-20)26(28)29;/h4-12,14,16,31H,3,13,15,17H2,1-2H3,(H3,28,29);1H
